US06747053B2
N-((1S,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexyl)-6-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-indole-2-carboxamide
N-((1S,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexyl)-6-(2-morpholin-4-ylethoxy)-1H-indole-2-carboxamide using Mitsunobu coupling with 2-morpholin-4-yl-ethanol.

reactant | N-((1S,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexyl)-6-(2-morpholin-4-ylethoxy)-1H-indole-2-carboxamide | C(#N)CNC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1NC2=CC(=CC=C2C1)OCCN1CCOCC1 | C24H31N5O4
reactant | 2-morpholin-4-yl-ethanol | N1(CCOCC1)CCO | C6H13NO2
product | N-((1S,2R)-2-{[(cyanomethyl)amino]carbonyl}cyclohexyl)-6-[2-(4-methylpiperazin-1-yl)ethoxy]-1H-indole-2-carboxamide | C(#N)CNC(=O)[C@H]1[C@H](CCCC1)NC(=O)C=1NC2=CC(=CC=C2C1)OCCN1CCN(CC1)C | C25H34N6O3
